US07625908B2
The procedure described in Example 3 (preparation of starting materials) was repeated using glycolic acid and 4-({5-[(1R)-2-amino-1-methylethoxy]quinazolin-4-yl}amino)-2-methylphenol to give 2-hydroxy-N-[(2R)-2-({4-[(4-hydroxy-3-methylphenyl)amino]quinazolin-5-yl}oxy)propyl]acetamide as a dark brown solid in 59% yield; NMR spectrum (DMSO-d6) 1.41 (d, 3H), 2.17 (s, 3H), 3.43 (dt, 1H), 3.75 (dt, 1H), 3.78 (s, 2H), 5.01 (m, 1H), 6.84 (d, 1H), 7.30 (d, 1H), 7.32 (dd, 1H), 7.39 (d, 1H), 7.46 (d, 1H), 7.95 (t, 1H), 8.22 (t, 1H), 8.75 (s, 1H), 9.54 (d, 1H), 10.78 (s, 1H); Mass spectrum MH+ 383.

reactant | glycolic acid | C(CO)(=O)O | C2H4O3
reactant | 4-({5-[(1R)-2-amino-1-methylethoxy]quinazolin-4-yl}amino)-2-methylphenol | NC[C@H](OC1=C2C(=NC=NC2=CC=C1)NC1=CC(=C(C=C1)O)C)C | C18H20N4O2
product | 2-hydroxy-N-[(2R)-2-({4-[(4-hydroxy-3-methylphenyl)amino]quinazolin-5-yl}oxy)propyl]acetamide | 59% yield | OCC(=O)NC[C@@H](C)OC1=C2C(=NC=NC2=CC=C1)NC1=CC(=C(C=C1)O)C | C20H22N4O4
